US05364871
A mixture of 4-(6-acetylaminomethylpyridin-2-yl)-2-thioureidothiazole (5.3 g) and methyl iodide (1.2 ml) in a solution of methanol (53 ml) and tetrahydrofuran (25 ml) was heated under reflux for 4.5 hours. The solvent was removed by concentration in vacuo and resulting residue was triturated with ethyl acetate to give 4-(6-acetylaminomethylpyridin-2-yl)-2-[(amino)(methylthio)methyleneamino]thiazole hydriodide.

reactant | 4-(6-acetylaminomethylpyridin-2-yl)-2-thioureidothiazole | 5.3 g | C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)NC(=S)N | C12H13N5OS2
reactant | methyl iodide | 1.2 ml | CI | CH3I
reactant | methanol | 53 ml | CO | CH4O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 4-(6-acetylaminomethylpyridin-2-yl)-2-[(amino)(methylthio)methyleneamino]thiazole hydriodide | I.C(C)(=O)NCC1=CC=CC(=N1)C=1N=C(SC1)N=C(SC)N | InChI=1S/C13H15N5OS2.HI/c1-8(19)15-6-9-4-3-5-10(16-9)11-7-21-13(17-11)18-12(14)20-2;/h3-5,7H,6H2,1-2H3,(H,15,19)(H2,14,17,18);1H
